US04937246
A mixture of 1-(7,8-dimethoxy-2,3-dihydro-1-benzoxepin4-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine obtained in Working Example 26 (0.5 g) and methanol (20 ml) is stirred under a hydrogen stream in the presence of 10% palladium-carbon (0.3 g) under atmospheric pressure at room temperature for 10 hours. After filtration of the catalyst, the filtrate is concentrated under reduced pressure. The residue is dissolved in ethyl acetate. The resulting solution is washed with water, dried and concentrated in vacuo. The residue is tritutated with ethyl ether and the resulting powder is filtered off to give 1-(7,8-dimethoxy2,3,4,5-tetrahydro-1-benzoxepin-4-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine as a colorless powder (0.4 g).

reactant | 1-(7,8-dimethoxy-2,3-dihydro-1-benzoxepin4-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | COC=1C(=CC2=C(C=C(CCO2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)OC | C27H32N2O8
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
solvent | methanol | 20 ml | CO | CH4O
product | 1-(7,8-dimethoxy2,3,4,5-tetrahydro-1-benzoxepin-4-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 0.4 g | COC=1C(=CC2=C(CC(CCO2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)OC | C27H34N2O8
